US08026257B2
Ethyl 5-bromo-1H-benzo[d]imidazole-7-carboxylate.
To a suspension of crude 5-Bromo-1H-benzo[d]imidazole-7-carboxylic acid (247 mg, 0.81 mmol, 77% pure) in dichloroethane under N2 with stirring was added oxalyl chloride (0.5 mL, 5.6 equiv). Added one drop of DMF as catalyst. After 10 min, the suspension was treated with another 0.5 mL of oxalyl chloride. After 2.5 h, when effervescence ceased, added another 0.5 mL portion of oxalyl chloride and 2 drops of DMF and continued the reaction for another 1.5 h. The reaction mixture was added to 50 mL of ethanol carefully. The ethanol solution was maintained at ambient temperature for 30 min. It was then evaporated in vacuo. The residue was partitioned between EtOAc (75 mL) and satd aqueous bicarbonate (100 mL). The organic layer was washed with water (50 mL), dried (Na2SO4) and evaporated in vacuo. The crude product was coevaporated with hexane (50 mL). A suspension of the residual solid in hexane (50 mL) was filtered and washed with another 20 mL more hexane to give 200 mg. The crude product itself was used for subsequent reactions. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.53 (s, 1 H), 8.20 (s, 1 H), 7.93 (s, 1 H), 4.45 (q, J=7.0 Hz, 2H), 1.39 (t, J=7.0 Hz, 3H). 269(MH)+.

reactant | 5-Bromo-1H-benzo[d]imidazole-7-carboxylic acid | 0.81 mmol, 247 mg | BrC1=CC2=C(NC=N2)C(=C1)C(=O)O | C8H5BrN2O2
reactant | oxalyl chloride | 0.5 mL, 5.6 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 50 mL | C(C)O | C2H6O
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | Ethyl 5-bromo-1H-benzo[d]imidazole-7-carboxylate | BrC1=CC2=C(NC=N2)C(=C1)C(=O)OCC | C10H9BrN2O2
